US09402836B2
b) Methyl 7-methyl-1-(1-methylethyl)-1H-indole-4-carboxylate
A cooled (ice/water bath) solution of methyl 7-methyl-1H-indole-4-carboxylate (260 mg, 1.374 mmol) in DMF (20 mL) was added sodium hydride (43.4 mg, 1.718 mmol). After 10 minutes 2-iodopropane (0.151 mL, 1.512 mmol) was added and the reaction was stirred for 16 h. LCMS showed reaction only 10% complete. Added sodium hydride (43.4 mg, 1.718 mmol) followed by 2-iodopropane (0.151 mL, 1.512 mmol). After 2 hours LCMS showed reaction was 15% compete. Added more sodium hydride (43.4 mg, 1.718 mmol) and let stir for 5 minutes, then added more 2-bromopropane (0.142 mL, 1.512 mmol). Heated to 70° C. for 16 h. LCMS showed reaction 50% complete. Concentrated reaction mixture. Added DCM and washed with water and brine, dried over MgSO4, filtered and concentrated. The residue was purified by column chromatography (Biotage; 0% to 100% DCM:Hex; 25 g-HP-silica gel column) to give 137 mg of the title compound. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 1.48-1.60 (m, 6H), 2.78 (s, 3H), 3.94-4.02 (m, 3H), 5.17 (dt, J=13.20, 6.66 Hz, 1H), 6.96 (d, J=7.83 Hz, 1H), 7.28 1H, 7.40 (d, J=3.28 Hz, 1H), 7.81 (d, J=7.58 Hz, 1H). MS(ES) [M+H]+ 232.1

reactant | methyl 7-methyl-1H-indole-4-carboxylate | 1.374 mmol, 260 mg | CC1=CC=C(C=2C=CNC12)C(=O)OC | C11H11NO2
reactant | sodium hydride | 1.718 mmol, 43.4 mg | [H-].[Na+]
reactant | 2-iodopropane | 1.512 mmol, 0.151 mL | IC(C)C | C3H7I
reactant | sodium hydride | 1.718 mmol, 43.4 mg | [H-].[Na+]
reactant | 2-iodopropane | 1.512 mmol, 0.151 mL | IC(C)C | C3H7I
reactant | sodium hydride | 1.718 mmol, 43.4 mg | [H-].[Na+]
reactant | 2-bromopropane | 1.512 mmol, 0.142 mL | BrC(C)C | C3H7Br
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | Methyl 7-methyl-1-(1-methylethyl)-1H-indole-4-carboxylate | 137 mg | CC1=CC=C(C=2C=CN(C12)C(C)C)C(=O)OC | C14H17NO2
